US07858621B2
Step 3: (2-Butylamino-6-trifluoromethyl-pyridin-3-yl)-propynoic acid
To a suspension of (2-butylamino-6-trifluoromethyl-pyridin-3-yl)-propynoic acid methyl ester (78 mg, 0.26 mmol) in THF (0.50 ml) was added a solution of 1 N-LiOH (1.0 ml), and the mixture was stirred for 3 hours at room temperature. The reaction mixture was acidified with 1N HCl to pH 1˜2. The solution was extracted three times with methylene chloride and then dried over anhyd. Na2SO4 and concentrated in vacuo to the title compound (50 mg, 65%).

reactant | (2-butylamino-6-trifluoromethyl-pyridin-3-yl)-propynoic acid methyl ester | 0.26 mmol, 78 mg | COC(C#CC=1C(=NC(=CC1)C(F)(F)F)NCCCC)=O | C14H15F3N2O2
reactant | LiOH | 1.0 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 0.50 ml | C1CCOC1 | C4H8O
product | (2-Butylamino-6-trifluoromethyl-pyridin-3-yl)-propynoic acid | C(CCC)NC1=NC(=CC=C1C#CC(=O)O)C(F)(F)F | C13H13F3N2O2
